US04478849
1-(4-Carboethoxyphenyl)propan-2-one
The title compound was prepared in an identical manner to that described in Description 2 using 1-(4-carboethoxyphenyl)-2-nitroprop-1-ene and replacing the solvent with ethanol. γ (CDCl3) 8.62 (3H, t, J=7 Hz), 7.87 (3H, s), 6.29 (2H, s), 5.64 (2H, q, J=7 Hz), 2.76 (2H, d, J=9 Hz), 2.0 (2H, d, J=9 Hz).

reactant | 1-(4-carboethoxyphenyl)-2-nitroprop-1-ene | C(=O)(OCC)C1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C12H13NO4
reactant | ethanol | C(C)O | C2H6O
product | 1-(4-Carboethoxyphenyl)propan-2-one | C(=O)(OCC)C1=CC=C(C=C1)CC(C)=O | C12H14O3
